.lib ${pdk_root}/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_${corner}
.include submission.spice
.temp ${temperature}
IREFL 0 irefl 50u
VOUTL outl 0 0.20
XDUTL irefl outl 0 basic_current_mirror
IREFM 0 irefm 50u
VOUTM outm 0 0.60
XDUTM irefm outm 0 basic_current_mirror
IREFH 0 irefh 50u
VOUTH outh 0 1.00
XDUTH irefh outh 0 basic_current_mirror
IREFD 0 irefd 50u
VOUTD outd 0 1.001
XDUTD irefd outd 0 basic_current_mirror
.control
op
let low_current=abs(i(VOUTL))
let mid_current=abs(i(VOUTM))
let high_current=abs(i(VOUTH))
let low_error=abs(low_current-50u)/50u
let mid_error=abs(mid_current-50u)/50u
let high_error=abs(high_current-50u)/50u
let current_error=max(low_error,max(mid_error,high_error))
let output_resistance=0.001/max(abs(i(VOUTD)-i(VOUTH)),1e-15)
echo low_current $$&low_current > results.data
echo mid_current $$&mid_current >> results.data
echo high_current $$&high_current >> results.data
echo current_error $$&current_error >> results.data
echo output_resistance $$&output_resistance >> results.data
quit
.endc
.end
